US09034866B2
2-Carbamoyl-9-fluoro-10-(3-hydroxy-3-methyl-but-1-ynyl)-5,6-dihydroimidazo[1,2-d][1,4]benzoxazepine-3-carboxylic acid (0.05 g) was reacted with 4-amino-1-methylpiperidine similar to as described in Example 2 to afford 17.8 mg of 9-fluoro-10-(3-hydroxy-3-methyl-but-1-ynyl)-N3-(1-methyl-4-piperidyl)-5,6-dihydroimidazo[1,2-d][1,4]benzoxazepine-2,3-dicarboxamide following reverse phase hplc purification. MS (Q1) 470 (M)+. 1H NMR (400 MHz, DMSO) δ 11.37 (d, J=7.0 Hz, 1H), 8.60 (d, J=8.5 Hz, 1H), 8.39 (s, 1H), 7.88 (s, 1H), 7.02 (d, J=10.6 Hz, 1H), 6.45 (s, 1H), 5.47 (s, 1H), 5.07-4.93 (m, 2H), 4.63-4.46 (m, 2H), 2.98-2.81 (m, 2H), 2.48-2.39 (m, 1H), 2.36 (s, 3H), 1.98-1.87 (m, 2H), 1.65-1.52 (m, 2H), 1.49 (s, 6H).

reactant | 2-Carbamoyl-9-fluoro-10-(3-hydroxy-3-methyl-but-1-ynyl)-5,6-dihydroimidazo[1,2-d][1,4]benzoxazepine-3-carboxylic acid | 0.05 g | C(N)(=O)C=1N=C2N(CCOC3=C2C=C(C(=C3)F)C#CC(C)(C)O)C1C(=O)O | C18H16FN3O5
reactant | 4-amino-1-methylpiperidine | NC1CCN(CC1)C | C6H14N2
product | 9-fluoro-10-(3-hydroxy-3-methyl-but-1-ynyl)-N3-(1-methyl-4-piperidyl)-5,6-dihydroimidazo[1,2-d][1,4]benzoxazepine-2,3-dicarboxamide | 17.8 mg | FC1=CC2=C(C=3N(CCO2)C(=C(N3)C(=O)N)C(=O)NC3CCN(CC3)C)C=C1C#CC(C)(C)O | C24H28FN5O4
